* Z:\mnt\design.r\spice\examples\3405A-1.375.asc
V1 IN 0 5
C2 OUT 0 22µ
L1 N001 OUT 4.7µ
Rload OUT 0 10
XU1 IN 0 N001 IN OUT 0 LTC3405A-x.x top=64.1K bot=440K
.tran 500u startup
.lib LTC3405A-x.x.sub
.backanno
.end
